US08835470B2
(R/S)-Ethyl 2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate (Int-VIII, 380 mg, 0.83 mmol) was dissolved in THF (5.00 mL) and MeOH (5 mL). Then, 1N LiOH (0.83 mL, 0.83 mmol) was added. It was stirred for 20 min and additional 1N LiOH (0.83 mL, 0.83 mmol) was added. After stirring for 15 min, the solution was neutralized by 1N HCl to pH=5. The reaction mixture was concentrated and then EtOAc was added. The EtOAc was washed with brine. The organic layer was dried, filtered and concentrated to give (R/S)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 376 mg, 0.785 mmol, 95% yield): LCMS=432.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.02-8.20 (2 H, m), 7.49-7.79 (7 H, m), 5.27 (1 H, s).

reactant | (R/S)-Ethyl 2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate | 0.83 mmol, 380 mg | OC(C(=O)OCC)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C22H16F3N3O5
reactant | LiOH | 0.83 mmol, 1N, 0.83 mL | [Li+].[OH-]
reactant | LiOH | 0.83 mmol, 1N, 0.83 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | (R/S)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.785 mmol, 376 mg, 95% yield | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
